datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCC1C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1.[O-:21]C 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1CC)([O-:10])[Cl:21])C1=CC=CC=C1>>CCCCCCC1C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CN([C:20]([O-:10])(O[H])[Cl:21])CC>>CN([C:20](=[O:10])O[H])CC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CC)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]CC 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[O-:21][C:20]2(C)C(C(C)C3=C([O:10]2)C=CC=C3)O>>[O-:10]C(C=CC=C1)=C1C(C)C([C:20](C)=[O:21])O 21=20;20,10=10"
"C1(C([O:21][C:20](O1)([O-:10])OC)CCCCCC)[H]>>C(C(O[C:20](=[O:10])OC)[H])([O-:21])CCCCCC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O]C([H])C(C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(CC)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C(C)C([H])C(C)[O+:10]1([K])>>[O:10]([K])C(C)C([H])/C(C)=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])[O:10]C([H])C(O)C1C>>[O-:10]C([H])C(O)C([C:20]([H])=[O:21])C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([O]CC)[O]CC.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([O]CC)[O]CC 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C(C)/C(C)=C([C:20](OCC)=[O:21])/O>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(C)=C1O 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)C>>C1=CC=CC=C1N([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])C 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CC)CCCCCC>>CCN([C:20]1(OC(C([O:21]1)CCCCCC)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)[H])[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)[H])CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)[OH+:10]C(CCC)C(C)C1[H]>>[OH:10]C(CCC)C(C)C([C:20](OC)=[OH+:21])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[S]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])=C([H])C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)/C([H])=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]C>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(C)[O+:10]([Na])C(C)C(O)C1O>>[O:10]([Na])C(C)C(O)C([C:20](C)=[O:21])O 21=20;20,10=10"
"[NH:10]([H])C(C)C([H])N([C:20](OC)=[O:21])C>>[O-:21][C:20]1(OC)[NH+:10]([H])C(C)C([H])N1C 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1CC)([O-:10])[Cl:21])C>>CCCCCCC1C(O[C:20](=[O:10])N1CC)C.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C[NH+:21]=[C:20]([NH][H])[NH]C7=CC=CC=C7 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
